US05254755
As another example, 2-methyl-1,1,3,3-tetrafluoro-2-propanol may be prepared by fluorinating commercially available 1,1-dichloro-2-propanone to form 1,1-difluoro-2-propanone which may then be reacted with CF2 carbene to form 2-methyl-1,1,3,3-tetrafluoro-1-propene. The 2-methyl-1,1,3,3-tetrafluoro-1-propene may then be reacted with sulfuric acid and then water to form 2-methyl-1,1,3,3-tetrafluoro-2-propanol.

reactant | 2-methyl-1,1,3,3-tetrafluoro-1-propene | CC(=C(F)F)C(F)F | C4H4F4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-methyl-1,1,3,3-tetrafluoro-2-propanol | CC(C(F)F)(C(F)F)O | C4H6F4O
